US09284324B2
Preparation of [1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrrol-3-yl](pyrrolidin-1-yl)methanone (Compound No. 16)
The titled compound was prepared as a colorless amorphous substance by repeating the procedure of Example 1, except that the 1-cyclobutyl-4-(4-iodophenoxy)piperidine was replaced by (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine (which can be synthesized in accordance with the method described in WO2009063953) and the methyl 1H-pyrrole-3-carboxylic acid by 3-(pyrrolidin-1-ylcarbonyl)-1H-pyrrole.

reactant | 1-cyclobutyl-4-(4-iodophenoxy)piperidine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)I | C15H20INO
reactant | (2R)-1-[3-(4-iodophenoxy)propyl]-2-methylpyrrolidine | IC1=CC=C(OCCCN2[C@@H](CCC2)C)C=C1 | C14H20INO
reactant | methyl 1H-pyrrole-3-carboxylic acid | CN1C=C(C=C1)C(=O)O | C6H7NO2
reactant | 3-(pyrrolidin-1-ylcarbonyl)-1H-pyrrole | N1(CCCC1)C(=O)C1=CNC=C1 | C9H12N2O
product | [1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrrol-3-yl](pyrrolidin-1-yl)methanone | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1C=C(C=C1)C(=O)N1CCCC1 | C23H31N3O2
